US09399646B2
Step 3: 5-(4-Iodophenyl)-3-(methoxymethoxy)isoxazole
To a solution of 5-(4-iodophenyl)isoxazol-3-ol (128 mg, 0.43 mmol) in Et3N/DMSO (10:1 v/v, 5.5 mL) at 0° C., chloro(methoxy)methane (45 mg, 0.64 mmol) was added dropwise. After stirring at 0° C. for 0.5 h, the reaction mixture was poured into ice-water (50 mL) and extracted with EtOAc (3×20 mL). The combined organic layers were dried over MgSO4 and concentrated in vacuo. The residue was purified on a silica gel column using EtOAc in petroleum ether (1:20) to afford the title compound as white solid (55 mg, 40%). 1H NMR (DMSO-d6, 400 MHz): δ 7.79 (d, 2H), 7.46 (d, 2H), 6.23 (s, 1H), 5.36 (s, 2H), 3.57 (s, 3H). LCMS: 332 (M+H)+.

reactant | 5-(4-iodophenyl)isoxazol-3-ol | 0.43 mmol, 128 mg | IC1=CC=C(C=C1)C1=CC(=NO1)O | C9H6INO2
reactant | chloro(methoxy)methane | 0.64 mmol, 45 mg | ClCOC | C2H5ClO
solvent | Et3N DMSO | 5.5 mL | CCN(CC)CC.CS(=O)C
product | 5-(4-Iodophenyl)-3-(methoxymethoxy)isoxazole | 55 mg, 40% | IC1=CC=C(C=C1)C1=CC(=NO1)OCOC | C11H10INO3
